US05364871
An ethereal solution of methyl magnesium bromide (3 mol/l) (17.6 ml) was added dropwise to a solution of 6-(acetylaminomethyl)-2-pyridinecarbonitrile (3.70 g) in tetrahydrofuran (60 ml) at 5° to 10° C. with stirring. After the mixture was stirred for two hours at the same temperature, cold water (15 ml) was dropped to the mixture under ice-cooling and evaporated in vacuo. The residue was mixed with water and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography by eluting with a mixture of ethyl acetate and methanol (50:1) to give 2-acetyl-6-(acetylaminomethyl)pyridine (2.70 g).

reactant | methyl magnesium bromide | 3 mol/l, 17.6 ml | C[Mg]Br
reactant | 6-(acetylaminomethyl)-2-pyridinecarbonitrile | 3.70 g | C(C)(=O)NCC1=CC=CC(=N1)C#N | C9H9N3O
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-acetyl-6-(acetylaminomethyl)pyridine | 2.70 g | C(C)(=O)C1=NC(=CC=C1)CNC(C)=O | C10H12N2O2
